US07906660B2
4′,7-Diacetoxy-3′-methoxy-8-methylisoflavan-4-ol was prepared from 4′,7-diacetoxy-3′-methoxy-8-methylisoflavone (0.25 g, 0.7 mmol) in methanol (50 ml) using palladium-on-charcoal (5%, 0.07 g) by the method described above.

reactant | 4′,7-diacetoxy-3′-methoxy-8-methylisoflavone | 0.7 mmol, 0.25 g | C(C)(=O)OC1=C(C=C(C2=COC3=C(C(=CC=C3C2=O)OC(C)=O)C)C=C1)OC | C21H18O7
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.07 g | [Pd] | Pd
product | 4′,7-Diacetoxy-3′-methoxy-8-methylisoflavan-4-ol | C(C)(=O)OC1=C(C=C(C2COC3=C(C(=CC=C3C2O)OC(C)=O)C)C=C1)OC | C21H22O7
